US05198449
3-(2-Hydroxyethyl)-2,4(1H,3H)-quinazolinedione
A mixture of 2-[(ethoxycarbonyl)amino]benzoic acid ethyl ester (65.75 g, 0.277 mol) and 2-aminoethanol (16.9 g, 0.277 mol) was refluxed for 2.5 days in 350 mL of xylenes. The reaction was cooled to room temperature and xylene was removed. Chloroform was added to the residue and a brown solid crystallized. The brown solid was filtered from the solution. The chloroform layer was extracted with water, dried (Na2SO4), filtered and the solvent was removed. The residue was placed in the freezer in isopropyl alcohol. The brown solid was triturated with isopropyl alcohol. Both produced a crystalline white solid which was dried in vacuo overnight at 80° C. This gave a total of 40.70 g (71.3% yield) of white crystalline solid, mp 250°-252° C.

reactant | 2-[(ethoxycarbonyl)amino]benzoic acid ethyl ester | 0.277 mol, 65.75 g | C(C)OC(C1=C(C=CC=C1)NC(=O)OCC)=O | C12H15NO4
reactant | 2-aminoethanol | 0.277 mol, 16.9 g | NCCO | C2H7NO
product | 3-(2-Hydroxyethyl)-2,4(1H,3H)-quinazolinedione | 40.70 g, 71.3% yield | OCCN1C(NC2=CC=CC=C2C1=O)=O | C10H10N2O3
